US05811459
4-[3-(4-(Benzyloxy)pyrimid-5-yl)propyl]benzoic acid
tert-Butyl 4-[3-(4-(benzyloxy)pyrimid-5-yl)propyl]benzoate (0.36 g, 0.92 mmol) was dissolved in dichloromethane (0.7 ml) and treated with trifluoro-acetic acid (1.05 g, 9.2 mmol). The reaction was stirred at amibent temperature for 2 hours. The mixture was partitioned between EtOAc/water and the aqueous layer extracted with EtOAc. The organic layers were combined, dried (MgSO4) and evaporated and the solid was triturated with hexane and recrystallised from isopropanol/water. The cream coloured solid was taken up in THF, filtered through Celite and evaporated to give the title product.

reactant | tert-Butyl 4-[3-(4-(benzyloxy)pyrimid-5-yl)propyl]benzoate | 0.92 mmol, 0.36 g | C(C1=CC=CC=C1)OC1=NC=NC=C1CCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C25H28N2O3
reactant | trifluoro-acetic acid | 9.2 mmol, 1.05 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.7 ml | ClCCl | CH2Cl2
product | 4-[3-(4-(Benzyloxy)pyrimid-5-yl)propyl]benzoic acid | C(C1=CC=CC=C1)OC1=NC=NC=C1CCCC1=CC=C(C(=O)O)C=C1 | C21H20N2O3
